US09120823B2
A mixture of 2-(3-ethylsulfanyl-pyridin-2-yl)-3-methyl-6-trifluoromethylsulfanyl-3H-imidazo[4,5-b]pyridine (200 mg), m-chloroperbenzoic acid (purity: not less than 65%) (230 mg) and chloroform (10 ml) was stirred while ice-cooling for 5 hours. To the reaction mixture was poured saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with chloroform. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 2-(3-ethylsulfinyl-pyridin-2-yl)-3-methyl-6-trifluoromethylsulfanyl-3H-imidazo[4,5-b]pyridine (89 mg), which is hereinafter referred to as “the present compound 14”, and 2-(3-ethylsulfonyl-pyridin-2-yl)-3-methyl-6-trifluoromethylsulfanyl-3H-imidazo[4,5-b]pyridine (130 mg), which is hereinafter referred to as “the present compound 15”.

reactant | 2-(3-ethylsulfanyl-pyridin-2-yl)-3-methyl-6-trifluoromethylsulfanyl-3H-imidazo[4,5-b]pyridine | 200 mg | C(C)SC=1C(=NC=CC1)C1=NC=2C(=NC=C(C2)SC(F)(F)F)N1C | C15H13F3N4S2
reactant | m-chloroperbenzoic acid | 230 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-ethylsulfinyl-pyridin-2-yl)-3-methyl-6-trifluoromethylsulfanyl-3H-imidazo[4,5-b]pyridine | 89 mg | C(C)S(=O)C=1C(=NC=CC1)C1=NC=2C(=NC=C(C2)SC(F)(F)F)N1C | C15H13F3N4OS2
